US07517873B2
A mixture of 4.44 g (0.0521 mole) of cyclopentylamine and 5.12 g (0.0521 mole) of dihydro-3-methylene-(3H)-furanone was stirred at room temperature for 40 minutes and then distilled under vacuum to give 8.41 g of (rac)-3-[(cyclopentylamino)methyl]dihydro-2(3H)-furanone, b.p. 120-128 degrees, 0.3 mm Hg.

reactant | cyclopentylamine | 0.0521 mole, 4.44 g | C1(CCCC1)N | C5H11N
reactant | dihydro-3-methylene-(3H)-furanone | 0.0521 mole, 5.12 g | C=C1C(OCC1)=O | C5H6O2
product | (rac)-3-[(cyclopentylamino)methyl]dihydro-2(3H)-furanone | 8.41 g | C1(CCCC1)NCC1C(OCC1)=O | C10H17NO2
